Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Abdominal pain and transaminitis
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
CC: ___ and back pain

HPI: ___ female with HTN, hypothyroidism presenting with
1 day of abdominal pain and back pain, found to have significant
transaminitis, with ultrasound at ___ significant
for obstructed common biliary duct.  The patient was instructed
to come to ___ for further care and arrived by personal car.

In the ED, initial vital signs were 97.7 77 180/95 18 98% on 
room
air.
Upon arrival to the floor, the patient tells the story as
follows.
BMP was grossly hemolyzed, with a K of 5.7, BUN/creatinine of
___.  CBC WNL with WBC 6.1.  ALT 871, AST 77, alk phos 151, T
bili 2.4.

Upon arrival to the floor, the patient was story as follows.  
She
reports that on ___ evening, she had onset of epigastric
pain which radiated towards her back.  The pain continued to
increase in severity, until involved her whole abdomen, 
prompting
her to present to ___.  There, she had an
ultrasound, which demonstrated a dilated common bile duct to 11
mm and thickened gallbladder wall.  She was instructed to come 
to
___.

This evening, approximately ___ ___, she had complete resolution
of her abdominal pain.  She has not had further recurrence of 
her
abdominal pain.

 She denies recent fevers, chills, chest pain, shortness of
breath, nausea, vomiting, constipation, bloody stools, dysuria. 
She reports she passed multiple pale colored stools.  She denies
rash, skin discoloration, itchiness.  She has not eaten in
several days secondary to pain

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
- Hypothyroidism, Hashimoto's
- GERD 
- History of grade B esophagitis, currently controlled with
pantoprazole 20 mg once a day.
- hypertension
- Osteoporosis

 
Social History:
___
Family History:
FAMILY HISTORY: Denies family history of biliary disease.
 
Physical Exam:
EXAM
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes very dry
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

Discharge exam:
Well appearing, vital signs stable.
No jaundice.
Abdomen soft, Non tender, non distended.

 
Pertinent Results:
DATA: I have reviewed the relevant labs, radiology studies,
tracings, medical records, and they are notable for: 

___ 09:18PM BLOOD WBC: 6.1 RBC: 4.64 Hgb: 13.6 Hct: 41.0
MCV: 88 MCH: 29.3 MCHC: 33.2 RDW: 14.1 RDWSD: 45.___ 
___ 09:18PM BLOOD Neuts: 64.2 Lymphs: ___ Monos: 9.3 Eos:
1.6 Baso: 1.0 Im ___: 0.3 AbsNeut: 3.92 AbsLymp: 1.44 AbsMono:
0.57 AbsEos: 0.10 AbsBaso: 0.06 
___ 09:45PM BLOOD ___: 10.9 PTT: 26.2 ___: 1.0 
___:18PM BLOOD Glucose: 88 UreaN: 17 Creat: 0.8 Na: 135
K: 5.7* Cl: 102 HCO3: 20* AnGap: 13 
___ 09:18PM BLOOD ALT: 871* AST: 787* AlkPhos: 151* 
TotBili:
2.4* DirBili: 0.5* IndBili: 1.9 

Review of OSH records:

RUQ ultrasound (___)
Liver: The liver is echogenic.  No intrahepatic bile duct
dilatation.
Gallbladder: The gallbladder is distended with thickened wall to
6 mm.  There are gallstones.  Negative sonographic ___ sign. 
No ___ fluid.
Common bile duct: The common bile duct is dilated up to 11 mm. 
No stones.
Pancreas: Unremarkable as visualized.
Impression: Distended gallbladder with multiple gallstones and
wall thickening however negative sonographic ___ sign and no
pericholecystic fluid.  The common bile duct is significantly
dilated to 11 mm.  This raises suspicion for 
choledocholithiasis.

___ labs:
AST 1122, ALT 768, alk phos 118, T bili 2.0

MRCP:

IMPRESSION:
 
 
1. Cholelithiasis with mild acute cholecystitis, slightly 
improved from ___.
2. Mild extrahepatic biliary dilation, without 
choledocholithiasis.
3. Possible osteochondroma arising from the left iliac bone, 
which is
partially visualized. Recommend dedicated MSK pelvis MRI for 
further
evaluation on an outpatient basis.
 
RECOMMENDATION(S): Outpatient MSK pelvis MRI.

Discharge labs:

___ 06:55AM BLOOD WBC-6.4 RBC-4.29 Hgb-12.2 Hct-38.6 MCV-90 
MCH-28.4 MCHC-31.6* RDW-14.1 RDWSD-46.3 Plt ___
___ 06:55AM BLOOD Glucose-82 UreaN-16 Creat-0.7 Na-143 
K-4.1 Cl-107 HCO3-25 AnGap-11
___ 06:55AM BLOOD ALT-642* AST-439* AlkPhos-137* 
TotBili-1.3
___ 06:55AM BLOOD Calcium-9.0 Phos-3.3 Mg-2.0
 
Brief Hospital Course:
___ is a ___ female with HTN, hypothyroidism 
presenting with 1 day of abdominal pain and back pain, found to  
have significant transaminitis, with ultrasound at ___  
___ significant for common biliary duct dilatation to 11 
mm.

ACUTE/ACTIVE PROBLEMS:
# Obstructive transaminitis: Patient presenting with abdominal
and back pain, found to have significant transaminitis, with 
elevations in alk phos and bilirubin.  Right upper quadrant 
ultrasound at ___ showed thickened gallbladder 
wall, multiple gallstones, and CBD of 11 mm.  No current 
evidence of cholangitis.  Her current presentation, with 
complete resolution of her abdominal pain, is suggestive of 
possible passed stone, however the patient continues to have 
significant elevation of her her liver enzymes.  After 
admission, her LFTS trended down, and her pain did not recur.  
She underwent MRCP which showed the gallstones, mild acute 
cholecystitis (improved from ultrasound), but no stones in the 
duct.  She was referred to a surgeon for consideration of CCY in 
early ___, and advised to follow a low fat diet.

CHRONIC/STABLE PROBLEMS:
# Hypothyroidism: She was continued on home Synthroid ___ mcg 
daily.

# GERD: She was continued on home pantoprazole and prn 
famotidine..

# Hypertension: 
- Continued quinalapril 20 mg daily for anticipated procedure 

# Osteoporosis: Home calcium and vitamin D resumed at ___.

# Contacts/HCP/Surrogate and Communication: HCP ___

Transitional issues:
Cholelithiasis:  requires CCY.
Possible osteochondroma in left iliac bone:  needs dedicated 
pelvic MRI.  Patient notified of this recommendation.  Final 
MRCP read not available to give her at the time of discharge.
Transaminitis: repeat LFTS on ___ or ___, results to PCP

 

 

 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Lansoprazole Oral Disintegrating Tab 15 mg PO DAILY:PRN GERD 
2. Multivitamins 1 TAB PO DAILY 
3. Pantoprazole 20 mg PO Q24H 
4. Quinapril 20 mg PO DAILY 
5. Vitamin D 500 UNIT PO DAILY 
6. Calcium Carbonate 1000 mg PO DAILY 
7. Famotidine 20 mg PO DAILY:PRN GERD 
8. Synthroid ___ mcg daily

 
Discharge Medications:
1.  Calcium Carbonate 1000 mg PO DAILY  
2.  Famotidine 20 mg PO DAILY:PRN GERD  
3.  Lansoprazole Oral Disintegrating Tab 15 mg PO DAILY:PRN GERD 
 
4.  Multivitamins 1 TAB PO DAILY  
5.  Pantoprazole 20 mg PO Q24H  
6.  Quinapril 20 mg PO DAILY  
7.  Vitamin D 500 UNIT PO DAILY  
8.  Synthroid ___ mcg daily
8.Outpatient Lab Work
ALT, AST, Alk phos, Bilirubin ___
ICD K 80.80
Results to Dr. ___ ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cholelithiasis
Acute cholecystitis, mild
Biliary obstruction
 
Discharge Condition:
Tolerating diet, afebrile.  No jaundice.
 
Discharge Instructions:
Why were you admitted?  
You had abdominal pain and were found to have gallstones at
___.  He was transferred here for consideration of 
ERCP.  MRCP showed no stones in your duct and therefore ERCP is 
not necessary.

You need to follow-up with a surgeon for consideration of 
cholecystectomy in the next few weeks.

 
Followup Instructions:
___